US04296211
About 200 parts by weight of toluene diisocyanate, "TDI", 50 parts by weight of fine granular hydrated silica and 10 parts by weight of sodium silicate are mixed then heated to 30° C. to 35° C. while agitating for about 20 minutes thereby producing a toluene diisocyanate silicate prepolymer. The prepolymer is mixed with 70 parts by weight of trichlorotrifluoroethane.

reactant | toluene diisocyanate | CC=1C(N=C=O)=CC(N=C=O)=CC1 | C9H6N2O2
reactant | sodium silicate | [Si]([O-])([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+]
product | toluene diisocyanate silicate | [Si](O)(O)(O)O.CC=1C(N=C=O)=CC(N=C=O)=CC1 | InChI=1S/C9H6N2O2.H4O4Si/c1-7-2-3-8(10-5-12)4-9(7)11-6-13;1-5(2,3)4/h2-4H,1H3;1-4H
